US09108938B2
2,3-Dichloro-N-[2-morpholino-2-[2-(trifluoromethyl)pyrimidin-5-yl]ethyl]benzamide
From 2,3-dichlorobenzoic acid and 2-(2-(trifluoromethyl)pyrimidin-5-yl)-2-morpholin-4-yl-ethylamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(2-(trifluoromethyl)pyrimidin-5-yl)-2-morpholin-4-yl-ethylamine | FC(C1=NC=C(C=N1)C(CN)N1CCOCC1)(F)F | C11H15F3N4O
product | 2,3-Dichloro-N-[2-morpholino-2-[2-(trifluoromethyl)pyrimidin-5-yl]ethyl]benzamide | ClC1=C(C(=O)NCC(C=2C=NC(=NC2)C(F)(F)F)N2CCOCC2)C=CC=C1Cl | C18H17Cl2F3N4O2
